US08455497B2
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-{4-[({[2-(1H-imidazol-1-yl)ethyl]amino}carbonyl) oxy]benzyl}propylcarbamate (313)
To a solution of 4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro [2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenyl 4-nitrophenyl carbonate (50 mg, 0.07 mmol) in 1,4-dioxane (1 mL) was added 2-(1H-imidazol-1-yl)ethanamine (50 mg, 0.45 mmol, Synthetic Communications 1991, 21, 535-544) and the mixture was stirred at ambient temperature for 30 min. The mixture was diluted with ethyl acetate and washed with saturated sodium bicarbonate/water (4×), dried (sodium sulfate), evaporated and purified by chromatography (silica gel, dichloromethane/2M ethanolic ammonia, 93:7) to provide the title compound as a white solid (25 mg). 1H NMR (DMSO-d6): δ 0.78 (3H, d), 0.82 (3H, d), 1.2 (1H, dd), 1.4 (1H, quintuplet), 1.9-2.0 (1H, m), 2.4 (1H, t), 2.55-2.80 (3H, m), 2.9-3.0 (2H, m), 3.3-3.4 (3H, m), 3.5-3.6 (4H, m), 3.7 (1H, t), 3.8 (1H, dd), 4.03-4.07 (2H, m), 4.8 (1H, dt), 0.505 (1H, d), 5.5 (1H, d), 6.18 (2H, s), 6.87 (1H, s), 6.9 (2H, d), 7.05 (1H, d), 7.15 (1H, s), 7.2 (2H, d), 7.23 (1H, s), 7.25-7.30 (2H, m), 7.6 (1H, s), 7.8 (1H, t); MS: 730 (MH+)

reactant | 4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro [2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenyl 4-nitrophenyl carbonate | 0.07 mmol, 50 mg | C(OC1=CC=C(C=C1)C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C1=CC2=C(OCO2)C=C1)O)NC(=O)O[C@H]1CO[C@H]2OCC[C@H]21)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C35H39N3O14S
reactant | 2-(1H-imidazol-1-yl)ethanamine | 0.45 mmol, 50 mg | N1(C=NC=C1)CCN | C5H9N3
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-{4-[({[2-(1H-imidazol-1-yl)ethyl]amino}carbonyl) oxy]benzyl}propylcarbamate | 25 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OC(=O)NCCN2C=NC=C2)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C34H43N5O11S
